US09447106B2
To a solution of 5-amino-1-(2-(hydroxymethyl)-5-nitrophenyl)-3-(4-phenoxy phenyl)-1H-pyrazole-4-carboxamide (550 mg, 1.24 mmol) in 20 mL of DCM was added MnO2 (500 mg, 5.75 mmol). After stirring at RT for 16 hr, the mixture was filtered. The filtrate was concentrated to afford 400 mg (73%) of 5-amino-1-(2-formyl-5-nitrophenyl)-3-(4-phenoxyphenyl)-1H-pyrazole-4-carboxamide as a yellow solid.

reactant | 5-amino-1-(2-(hydroxymethyl)-5-nitrophenyl)-3-(4-phenoxy phenyl)-1H-pyrazole-4-carboxamide | 1.24 mmol, 550 mg | NC1=C(C(=NN1C1=C(C=CC(=C1)[N+](=O)[O-])CO)C1=CC=C(C=C1)OC1=CC=CC=C1)C(=O)N | C23H19N5O5
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 5.75 mmol, 500 mg | O=[Mn]=O
product | 5-amino-1-(2-formyl-5-nitrophenyl)-3-(4-phenoxyphenyl)-1H-pyrazole-4-carboxamide | 400 mg, 73% | NC1=C(C(=NN1C1=C(C=CC(=C1)[N+](=O)[O-])C=O)C1=CC=C(C=C1)OC1=CC=CC=C1)C(=O)N | C23H17N5O5
